US04472433
Preparation of sodium 2-(2-amino-3-anilinophenyl)acetate
A mixture of 2-oxo-7-anilinoindoline (3 g.), sodium hydroxide (1.07 g.), dioxane (10 ml.) and water (50 ml.) was refluxed under heating for 22 hours with stirring. After cooling, the reaction mixture was filtered, and the filtrate was evaporated under reduced pressure. The residue was dissolved in ethanol under heating and filtered. The filtrate was evaporated under reduced pressure and the oily residue was crystallized with ethyl acetate, collected by filtration, washed with ethyl acetate and dried to give powdery crystals of the captioned compound (1.8 g.). mp 195° to 200° C.

reactant | 2-oxo-7-anilinoindoline | 3 g | O=C1NC2=C(C=CC=C2C1)NC1=CC=CC=C1 | C14H12N2O
reactant | sodium hydroxide | 1.07 g | [OH-].[Na+]
reactant | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | 50 ml | O | H2O
product | sodium 2-(2-amino-3-anilinophenyl)acetate | NC1=C(C=CC=C1NC1=CC=CC=C1)CC(=O)[O-].[Na+] | InChI=1S/C14H14N2O2.Na/c15-14-10(9-13(17)18)5-4-8-12(14)16-11-6-2-1-3-7-11;/h1-8,16H,9,15H2,(H,17,18);/q;+1/p-1
